US07767675B2
Step 1. tert-butyl[4-(hydroxymethyl)tetrahydro-2H-pyran-4-yl]carbamate
Ethyl chloroformate (0.234 mL, 0.00245 mol) was added to a solution of 4-[(tert-butoxycarbonyl)amino]tetrahydro-2H-pyran-4-carboxylic acid (0.5 g, 2.0 mmol) and triethylamine (0.341 mL, 2.45 mmol) in THF (6.8 mL) at −10° C. The mixture was stirred at RT for 30 min., filtered, and washed with THF. Sodium tetrahydroborate (0.15 g, 4.1 mmol) in water (1.0 mL) was added to the filtrate at 0° C., and then stirred at RT for 2 h. The reaction mixture was quenched with saturated NH4Cl solution, extracted with EtOAc. The extract was washed with saturated NaHCO3, brine, dried over MgSO4, filtered, and concentrated to give the crude product which was directly used in next step without further purification. LCMS: (M+Na)=254.1; (M−100+H)=132.1.

reactant | Ethyl chloroformate | 0.00245 mol, 0.234 mL | ClC(=O)OCC | C3H5ClO2
reactant | 4-[(tert-butoxycarbonyl)amino]tetrahydro-2H-pyran-4-carboxylic acid | 2.0 mmol, 0.5 g | C(C)(C)(C)OC(=O)NC1(CCOCC1)C(=O)O | C11H19NO5
reactant | triethylamine | 2.45 mmol, 0.341 mL | C(C)N(CC)CC | C6H15N
reactant | Sodium tetrahydroborate | 4.1 mmol, 0.15 g | [BH4-].[Na+]
solvent | THF | 6.8 mL | C1CCOC1 | C4H8O
solvent | water | 1.0 mL | O | H2O
product | tert-butyl[4-(hydroxymethyl)tetrahydro-2H-pyran-4-yl]carbamate | C(C)(C)(C)OC(NC1(CCOCC1)CO)=O | C11H21NO4
